US07612084B2
(3R)-3-[5-{2-[3-(2-aminoethyl)phenoxy]ethyl}-2-(benzyloxy)phenyl]-N,N-diisopropyl-3-phenylpropan-1-amine
tert-butyl{2-[3-(2-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}ethoxy)phenyl]ethyl}carbamate (Preparation 37, 1.3 g, 2.0 mmol) dissolved in dichloromethane (5 ml) and hydrochloric acid (4M in dioxin) added. Mixture stirred at room temperature for 3 hours under nitrogen. Solvent was removed in vacuo, and residue dissolved in dichloromethane (100 ml) and aqueous sodium hydroxide (1M, 100 ml), aqueous separated and extracted with dichloromethane (100 ml). Combined organics were dried (magnesium sulphate) and the solvent was removed in vacuo to furnish the title compound as an oil, 880 mg.

reactant | tert-butyl{2-[3-(2-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}ethoxy)phenyl]ethyl}carbamate | 2.0 mmol, 1.3 g | C(C)(C)(C)OC(NCCC1=CC(=CC=C1)OCCC1=CC(=C(C=C1)OCC1=CC=CC=C1)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)=O | C43H56N2O4
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (3R)-3-[5-{2-[3-(2-aminoethyl)phenoxy]ethyl}-2-(benzyloxy)phenyl]-N,N-diisopropyl-3-phenylpropan-1-amine | NCCC=1C=C(OCCC=2C=CC(=C(C2)[C@H](CCN(C(C)C)C(C)C)C2=CC=CC=C2)OCC2=CC=CC=C2)C=CC1 | C38H48N2O2
